US05892048
To a solution of 2.0 g of 5-(4-chlorobenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole in 20 ml of acetic acid at 10° C., was added 1.2 g of chromic anhydride. After stirring at room temperature overnight, the reaction mixture was poured into iced water and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturatedaqueous sodium hydrogen carbonate solution and then with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to afford 1.7 g of 5-(4-chlorobenzoyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole.

reactant | 5-(4-chlorobenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 2.0 g | ClC1=CC=C(CC2=NC(=NN2C)C2=C(C=CC=C2F)Cl)C=C1 | C16H12Cl2FN3
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-(4-chlorobenzoyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 1.7 g | ClC1=CC=C(C(=O)C2=NC(=NN2C)C2=C(C=CC=C2F)Cl)C=C1 | C16H10Cl2FN3O
